US06713471B1
To a solution of 8-methyl-2,3-dihydro-4H-1-benzothiopyran-4-one (2.24 g, 12.6 mmol) and NaN3 (1.64 g, 25.2 mmol) in AcOH (7.6 mL) was added dropwise at 50° C. conc. H2SO4 (1.9 mL). The reaction was maintained at 50° C. for 2 h and poured onto ice chips. The solid was collected by vacuum filtration and dried under vacuum at 23° C. This crude sample was a mixture of starting material, desired product and regioisomeric product with a ratio of 1:11:7 (by 1H NMR). Purification of the crude solid by column silica gel chromatography eluting with 20:1 CHCl3-MeOH provided a mixture 9-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and its regioisomer (500 mg, 4:1, by 1H NMR). This sample was used without further purification. 1H NMR (CHCl3, 300 MHz) δ7.22 (t, 1H, J=7.7 Hz), 7.15 (d, 1H, J=7.3 Hz), 6.94 (d, 1H, J=7.4 Hz), 3.39 (t, 2H, J=7.3 Hz), 2.59 (t, 2H, J=7.0 Hz), 2.54 (s, 3H) ppm.

reactant | 8-methyl-2,3-dihydro-4H-1-benzothiopyran-4-one | 12.6 mmol, 2.24 g | CC1=CC=CC=2C(CCSC21)=O | C10H10OS
reactant | NaN3 | 25.2 mmol, 1.64 g | [N-]=[N+]=[N-].[Na+]
reactant | H2SO4 | 1.9 mL | OS(=O)(=O)O | H2O4S
solvent | AcOH | 7.6 mL | CC(=O)O | C2H4O2
product | 9-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | CC1=CC=CC=2NC(CCSC21)=O | C10H11NOS
